US09314456B2
4,4′-(1H,3′H-5,5′-Bibenzo[d]imidazole-2,2′-diyl)dianiline (Compound 1)
A homogenous mixture of biphenyl-3,3′,4,4′-tetraamine (500 mg, 2.34 mmol) and 4-aminobenzoic acid (640 mg, 4.67 mmol) was added portionwise to stirred PPA (20 mL) at 200° C. The mixture was stirred at 200° C. for 2.5 h. The mixture was cooled (to <100° C.) and poured into water. The resulting mixture was stirred until a uniform green precipitate had formed. The solid was filtered off and washed with aqueous K2CO3 and water, then dried under suction. The crude product was purified by column chromatography (99:1 EtOAc-NEt3 to 89:10:1 EtOAc-MeOH-NEt3) to afford a yellow solid. This was dissolved in MeOH and 1M HCl, and then concentrated in vacuo. The material was then ground to a fine powder and stirred in aqueous NaHCO3. The solid was filtered, washed with water and dried (vacuum oven) to give the product as a yellow solid (475 mg, 49%).

reactant | biphenyl-3,3′,4,4′-tetraamine | 2.34 mmol, 500 mg | C1(=CC(=C(C=C1)N)N)C1=CC(=C(C=C1)N)N | C12H14N4
reactant | 4-aminobenzoic acid | 4.67 mmol, 640 mg | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | water | O | H2O
solvent | MeOH | CO | CH4O
product | 4,4′-(1H,3′H-5,5′-Bibenzo[d]imidazole-2,2′-diyl)dianiline | 475 mg, 49% | N1C(=NC2=C1C=CC(=C2)C2=CC1=C(N=C(N1)C1=CC=C(N)C=C1)C=C2)C2=CC=C(N)C=C2 | C26H20N6
